US07351709B2
To a stirred solution of (3R)-3-ethyl-6-fluoro-4-(4-methoxybenzoyl)-3,4-dihydroquinoxalin-2(1H)-one (0.20 g, 0.61 mmol) in acetonitrile (5 mL) under nitrogen was added potassium carbonate (0.050 g, 0.36 mmol), cesium carbonate (0.11 g, 0.33 mmol) and iodoethane (0.15 mL, 0.29 g, 1.9 mmol). The reaction was stirred for 10 h at 50° C. and then 5 h at 63° C. The solvent was evaporated, and the residue was partitioned between ethyl acetate and water. The layers were separated and the organic layer was washed with water. The organic layer was concentrated in vacuo and purified via Biotage Horizon® (SiO2, gradient from 5% EtOAc/hexane to 33% EtOAc/hexane) to yield 0.21 g (96%) of (3R)-1,3-diethyl-6-fluoro-4-(4-methoxybenzoyl)-3,4-dihydroquinoxalin-2(1H)-one. MS (ESI) m/z 357 ([M+H]+); HRMS: calcd for C20H21FN2O3, 356.16090; found (ESI+), 357.16057.

reactant | (3R)-3-ethyl-6-fluoro-4-(4-methoxybenzoyl)-3,4-dihydroquinoxalin-2(1H)-one | 0.61 mmol, 0.20 g | C(C)[C@@H]1C(NC2=CC=C(C=C2N1C(C1=CC=C(C=C1)OC)=O)F)=O | C18H17FN2O3
reactant | potassium carbonate | 0.36 mmol, 0.050 g | C([O-])([O-])=O.[K+].[K+]
reactant | cesium carbonate | 0.33 mmol, 0.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 1.9 mmol, 0.15 mL, 0.29 g | ICC | C2H5I
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (3R)-1,3-diethyl-6-fluoro-4-(4-methoxybenzoyl)-3,4-dihydroquinoxalin-2(1H)-one | 0.21 g, 96% | C(C)N1C([C@H](N(C2=CC(=CC=C12)F)C(C1=CC=C(C=C1)OC)=O)CC)=O | C20H21FN2O3
